US07423050B2
6. 2-Chloro-N-[6-(1-methyl-piperidin-4-ylcarbonyl)-pyridin-2-yl]-benzamide
Mix 2-Amino-6-(1-methylpiperidin-4-ylcarbonyl)pyridine (0.223 g) and 2-chlorobenzoyl chloride (0.175 g) in 1,4-dioxane (10 mL) and heat at reflux for 1 hour. Dilute with methanol (10 mL) and load on a SCX column (10 g). Wash the column with methanol, elute the product with 2 M NH3 in methanol, evaporate and purify the product on a silica gel column (CH2Cl2 with 2 M NH3 in methanol) to obtain 0.305 g (84%) of the title compound: mass spectrum (electric spray) m/z=358 (M+1) and 360 (M+2+1); 1H NMR (CDCl3): 8.60 (br s, 1H), 8.54 (d, 1H), 7.90 (dd, 1H), 7.81 (d, 1H), 7.76 (dd, 1H), 7.45 (m, 3H), 3.63 (m, 1H), 2.90 (m, 2H), 2.29 (s, 3H), 2.07 (m 2H), 1.85 (m, 4H).

reactant | 2-Amino-6-(1-methylpiperidin-4-ylcarbonyl)pyridine | 0.223 g | NC1=NC(=CC=C1)C(=O)C1CCN(CC1)C | C12H17N3O
reactant | 2-chlorobenzoyl chloride | 0.175 g | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 10 mL | CO | CH4O
product | 2-Chloro-N-[6-(1-methyl-piperidin-4-ylcarbonyl)-pyridin-2-yl]-benzamide | 0.305 g, 84% | ClC1=C(C(=O)NC2=NC(=CC=C2)C(=O)C2CCN(CC2)C)C=CC=C1 | C19H20ClN3O2
